US07223826B2
Starting Material 2 (SM-2): Synthesis of Dimethylhexadecylammoniumethyl Methacrylate Bromide (DMA-C16Br)
A 500-ml round-bottom flask was charged with 42.2 parts of DMAEMA, 154.7 parts of acetone, 93.2 parts of 1-bromohexadecane (Sigma-Aldrich), and 0.34 parts of BHT. The mixture was stirred for 16 hours at 35° C. and then allowed to cool to room temperature. The resulting white solid precipitate was isolated by filtration, washed with cold ethyl acetate, and dried under vacuum at 40° C. An NMR analysis of the solid product revealed the structure to be pure dimethylhexadecylammoniumethyl methacrylate bromide.

reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
solvent | acetone | CC(=O)C | C3H6O
product | Dimethylhexadecylammoniumethyl Methacrylate Bromide | [Br-].C(C)OC(C(=C)C)=O.C[NH+](CCCCCCCCCCCCCCCC)C | InChI=1S/C18H39N.C6H10O2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19(2)3;1-4-8-6(7)5(2)3;/h4-18H2,1-3H3;2,4H2,1,3H3;1H
